US07585878B2
In 11.5 ml of DMF was dissolved 500 mg of 6-nitro-2H-benzothiazin-3(4H)-one, and thereto was added 114 mg of sodium hydride of 55% purity under ice cooling, followed by 30 minutes of stirring at room temperature. To the reaction solution was added 444 μl of methyl iodide, and the whole was stirred at room temperature for 2 hours. To the reaction solution was added 2 ml of methanol under ice cooling, followed by 10 minutes of stirring at room temperature. Thereafter, water was added and the organic layer was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then the solvent was removed by evaporation. The obtained residue was purified by silica gel column chromatography (chloroform) to obtain 308 mg of 4-methyl-6-nitro-2H-1,4-benzothiazin-3(4H)-one.

reactant | 6-nitro-2H-benzothiazin-3(4H)-one | 500 mg | [N+](=O)([O-])C=1C=CC2=C(CC(NS2)=O)C1 | C8H6N2O3S
reactant | sodium hydride | 114 mg | [H-].[Na+]
reactant | methyl iodide | 444 μl | CI | CH3I
reactant | methanol | 2 ml | CO | CH4O
reactant | DMF | 11.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-methyl-6-nitro-2H-1,4-benzothiazin-3(4H)-one | 308 mg | CN1C(CSC2=C1C=C(C=C2)[N+](=O)[O-])=O | C9H8N2O3S
